US08183242B2
To a stirred solution of N-(5-nitro-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine (3.0 g) in methanol (100 mL) was added activated nickel (0.3 g). Hydrogen was added to the reaction mixture at atmospheric pressure till the starting material disappeared. The solid was filtered off and the filtrate was concentrated to give the N-(5-amino-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine (2.8 g).

reactant | N-(5-nitro-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine | 3.0 g | [N+](=O)([O-])C=1C=C(C(=NC1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H12N6O2
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | nickel | 0.3 g | [Ni] | Ni
product | N-(5-amino-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine | 2.8 g | NC=1C=C(C(=NC1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H14N6
